US09447035B2
Step 8: Preparation of (S)-3-[4-(2,6-dichlorobenzoylamino)phenyl]-2-[2,6-dichloro-4-[3-[3-[2-[2-[2-[2-[3-(2,5-dioxo-2,5-dihydropyrrol-1-yl)propionylamino]ethoxy]ethoxy]ethoxy]ethoxy]propionylamino]propoxy]benzoylamino]propionic acid;
The title compound was prepared using a similar procedure as described in Example 1, Step 11, starting from (S)-2-[4-(3-aminopropoxy)-2,6-dichlorobenzoylamino]-3-[4-(2,6-dichlorobenzoylamino)phenyl]propionic acid (214 mg, 0.3 mmol), 3-[2-[2-[2-[[3-(2,5-dioxo-2,5-dihydro-pyrrol-1-yl)-propionylamino]-ethoxy]ethoxy]ethoxy]ethoxy]propionic acid-2,5-dioxo-pyrrolidin-1-yl ester (154 mg, 0.3 mmol), and DIPEA (388 mg, 522 uL, 3.0 mmol), and after HPLC purification, resulted in a white solid (52 mg, 17%). ES(+)-HRMS m/e calcd. for C44H49Cl4N5O13 (M+Na)+ 1018.1973, obsd. 1018.1965.

reactant | (S)-2-[4-(3-aminopropoxy)-2,6-dichlorobenzoylamino]-3-[4-(2,6-dichlorobenzoylamino)phenyl]propionic acid | 0.3 mmol, 214 mg | NCCCOC1=CC(=C(C(=O)N[C@H](C(=O)O)CC2=CC=C(C=C2)NC(C2=C(C=CC=C2Cl)Cl)=O)C(=C1)Cl)Cl | C26H23Cl4N3O5
reactant | 3-[2-[2-[2-[[3-(2,5-dioxo-2,5-dihydro-pyrrol-1-yl)-propionylamino]-ethoxy]ethoxy]ethoxy]ethoxy]propionic acid-2,5-dioxo-pyrrolidin-1-yl ester | 0.3 mmol, 154 mg | O=C1N(C(CC1)=O)OC(CCOCCOCCOCCOCCNC(CCN1C(C=CC1=O)=O)=O)=O | C22H31N3O11
reactant | DIPEA | 3.0 mmol, 522 uL, 388 mg | CCN(C(C)C)C(C)C | C8H19N
product | (S)-3-[4-(2,6-dichlorobenzoylamino)phenyl]-2-[2,6-dichloro-4-[3-[3-[2-[2-[2-[2-[3-(2,5-dioxo-2,5-dihydropyrrol-1-yl)propionylamino]ethoxy]ethoxy]ethoxy]ethoxy]propionylamino]propoxy]benzoylamino]propionic acid | ClC1=C(C(=O)NC2=CC=C(C=C2)C[C@@H](C(=O)O)NC(C2=C(C=C(C=C2Cl)OCCCNC(CCOCCOCCOCCOCCNC(CCN2C(C=CC2=O)=O)=O)=O)Cl)=O)C(=CC=C1)Cl | C44H49Cl4N5O13
